US07635684B2
To a solution of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-hydroxypropoxy)-2-methylphenyl]-methyl}-5-isopropyl-1H-pyrazole (98 mg) in tetrahydrofuran (2 mL) were added 2-(2-nitrobenzenesulfonylamino)acetoamide (40 mg), triphenylphosphine (45 mg) and diethyl azodicarboxylate (40% toluene solution, 0.1 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was purified by column chromatography on silica gel (eluent: ethyl acetate-dichloromethane/methanol=10/1) to give 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-5-isopropyl-4-[(4-{3-[N-(2-nitrobenzenesulfonyl)-N-(carbamoylmethyl)amino]propoxy}-2-methylphenyl)methyl]-1H-pyrazole (92 mg). This material was dissolved in acetonitrile (1 mL). To the solution were added cesium carbonate (0.14 g) and thiophenol (0.012 mL), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with brine, and dried over sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1-5/1) to give the title compound (57 mg).

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-hydroxypropoxy)-2-methylphenyl]-methyl}-5-isopropyl-1H-pyrazole | 98 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)OCCCO)C)C(C)C | C31H42N2O12
reactant | 2-(2-nitrobenzenesulfonylamino)acetoamide | 40 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NCC(=O)N | C8H9N3O5S
reactant | triphenylphosphine | 45 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.1 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-5-isopropyl-4-[(4-{3-[N-(2-nitrobenzenesulfonyl)-N-(carbamoylmethyl)amino]propoxy}-2-methylphenyl)methyl]-1H-pyrazole | 92 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)OCCCN(CC(N)=O)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C)C(C)C | C39H49N5O16S
